US07569536B2
Nicotinoyl chloride hydrochloride (122 mg, 0.685 mmol, commercially available product) and triethylamine (250 μl, 1.79 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of 2-(1-piperidinyl)-5-(trifluoromethyl)aniline (152 mg, 0.622 mmol), obtained as described in Referential Example 1-2. The resulting mixture was warmed to room temperature and stirred for 16.5 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15 g, hexane/ethyl acetate=1.5/1-1/1). Thus, N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]nicotinamide (GIF-0343) (98.4 mg, 45.3%) was yielded as a colorless solid.

reactant | Nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 1.79 mmol, 250 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | 2-(1-piperidinyl)-5-(trifluoromethyl)aniline | 0.622 mmol, 152 mg | N1(CCCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C12H15F3N2
solvent | Water | O | H2O
product | N-[2-(1-piperidinyl)-5-(trifluoromethyl)phenyl]nicotinamide | 98.4 mg, 45.3% | N1(CCCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CN=CC=C1)=O | C18H18F3N3O
